US04892870
Sodium hydride (0.33 g, 8.3 mmol), 60% in mineral oil dispersion, kept under nitrogen purge, was washed twice with 20 ml portions of hexane. Dimethyl sulfoxide (10 ml) was added, followed by the addition of 2.5 g (7.6 mmol) of dihydro-4-(3,5-di-tert-butyl-4-hydroxybenzylidene)-2-methyl-2H-1,2-oxazin-3(4H)-one. Gas evolution was observed and the mixture became yellow following which an additional 5 ml of dimethyl sulfoxide was added. One hour later, 1.1 g (7.7 mmol) of methyl iodide was added and the mixture was stirred for 50 hours. The reaction mixture was diluted with 75 ml of water and precipitation occurred in the form of crystals which were collected and air dried to yield 3.3 g of crude product. Recrystallization from acetone-hexane afforded 1.85 g (5.4 mmol, 71%) of dihydro-4-(3,5-di-tert-butyl-4-methoxybenzylidene)-2-methyl-2H-1,2-oxazin-3(4H)-one having a melting point of 119°-121° C.

reactant | Sodium hydride | 8.3 mmol, 0.33 g | [H-].[Na+]
reactant | dihydro-4-(3,5-di-tert-butyl-4-hydroxybenzylidene)-2-methyl-2H-1,2-oxazin-3(4H)-one | 7.6 mmol, 2.5 g | C(C)(C)(C)C=1C=C(C=C2C(N(OCC2)C)=O)C=C(C1O)C(C)(C)C | C20H29NO3
reactant | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
reactant | methyl iodide | 7.7 mmol, 1.1 g | CI | CH3I
solvent | water | 75 ml | O | H2O
product | dihydro-4-(3,5-di-tert-butyl-4-methoxybenzylidene)-2-methyl-2H-1,2-oxazin-3(4H)-one | 5.4 mmol, 1.85 g, 71% | C(C)(C)(C)C=1C=C(C=C2C(N(OCC2)C)=O)C=C(C1OC)C(C)(C)C | C21H31NO3
